US07579469B2
Synthesis of 2-(3,5-dimethylpiperazin-1-ylmethyl)-1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methylpentan-2-ol
A solution of 2-[2-(5-fluoro-2-methoxyphenyl)-2-methylpropyl]-2-trifluoromethyloxirane (98.7 mg) and 2,6-dimethylpiperazine (77.2 mg) in dimethylformamide (1 mL) was heated at 100° C. for 5 hours. The resulting mixture was diluted with diethyl ether, washed with water and brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by column chromatography with silica gel (eluted with 1:98.5:0.5 methanol-methylene chloride-triethylamine) to give the title compound as a white solid (97.3 mg), m.p. 61° C.-62° C.

reactant | 2-[2-(5-fluoro-2-methoxyphenyl)-2-methylpropyl]-2-trifluoromethyloxirane | 98.7 mg | FC=1C=CC(=C(C1)C(CC1(OC1)C(F)(F)F)(C)C)OC | C14H16F4O2
reactant | 2,6-dimethylpiperazine | 77.2 mg | CC1NC(CNC1)C | C6H14N2
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(3,5-dimethylpiperazin-1-ylmethyl)-1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methylpentan-2-ol | 97.3 mg | CC1CN(CC(N1)C)CC(C(F)(F)F)(CC(C)(C)C1=C(C=CC(=C1)F)OC)O | C20H30F4N2O2
